US06605633B1
2-Phenyl-5-nitro-1H-indole-3-butanoic Acid
A solution of 1.19 g (4.10−3 mol) of sodium nitrate in 50 ml of concentrated sulfuric acid is added at 0-5° C., with stirring, to a solution of 3.67 g (13.15.10−2 mol) of 2-pheny-1H-indole-3-butanoic acid in 200 ml of concentrated sulfuric acid. Stirring is maintained at 5° C. for 20 min and the reaction medium is then poured into a mixture of water and ice. The yellow precipitate formed is filtered off and washed on the filter with water and with a small amount of petroleum ether. The product is then dried under reduced pressure and purified by chromatography on silica gel using a hexane/ethyl acetate mixture (1/1) as the eluent to give 1.3 g of the expected product in the form of a yellow solid with a yield of 30%.

reactant | sodium nitrate | 4.10−3 mol, 1.19 g | [N+](=O)([O-])[O-].[Na+]
reactant | 2-pheny-1H-indole-3-butanoic acid | 3.67 g | C1(=CC=CC=C1)C=1NC2=CC=CC=C2C1CCCC(=O)O | C18H17NO2
reactant | water | O | H2O
solvent | sulfuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 200 ml | S(O)(O)(=O)=O | H2O4S
product | 2-Phenyl-5-nitro-1H-indole-3-butanoic Acid | 1.3 g, yield of 30% | C1(=CC=CC=C1)C=1NC2=CC=C(C=C2C1CCCC(=O)O)[N+](=O)[O-] | C18H16N2O4
